US06297258B1
6-Amino-4-(3-chloro-4-fluroanilino)-7-(4-methyl-1-piperazinyl)-3-quinolinecarbonitrile
In the manner of Example 23 4-(3-chloro-4-fluoroanilino)-7-(4-methyl-1-piperazinyl)-6-nitro-3-quinolinecarbonitrile was reduced with iron powder and acetic acid in MeOH to give the title compound as an amorphous solid; ms 411.2 (M+H)+, 206.2 (M+2H)+2.

reactant | 4-(3-chloro-4-fluoroanilino)-7-(4-methyl-1-piperazinyl)-6-nitro-3-quinolinecarbonitrile | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)[N+](=O)[O-])N2CCN(CC2)C)C#N)C=CC1F | C21H18ClFN6O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
catalyst | iron | [Fe] | Fe
product | 6-Amino-4-(3-chloro-4-fluroanilino)-7-(4-methyl-1-piperazinyl)-3-quinolinecarbonitrile | NC=1C=C2C(=C(C=NC2=CC1N1CCN(CC1)C)C#N)NC1=CC(=C(C=C1)F)Cl | C21H20ClFN6
